US04406690
A mixture of N-(6-hydroxy-2-pyridyl)-3,4,5,6-tetrahydrophthalimide (3.9 g), silver carbonate (2.2 g), p-chlorobenzyl chloride (2.6 g) and benzene (75 ml) is stirred, in the dark, at 45° for about 72 hours. Then, the reaction is cooled and filtered. The filtrate is washed with 10% sodium bicarbonate and water, dried and stripped to give N-[6-(4-chlorobenzyloxy)-2-pyridyl]-3,4,5,6-tetrahydrophthalimide.

reactant | N-(6-hydroxy-2-pyridyl)-3,4,5,6-tetrahydrophthalimide | 3.9 g | OC1=CC=CC(=N1)N1C(C2=C(C1=O)CCCC2)=O | C13H12N2O3
reactant | p-chlorobenzyl chloride | 2.6 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
catalyst | silver carbonate | 2.2 g | C([O-])([O-])=O.[Ag+2]
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | N-[6-(4-chlorobenzyloxy)-2-pyridyl]-3,4,5,6-tetrahydrophthalimide | ClC1=CC=C(COC2=CC=CC(=N2)N2C(C3=C(C2=O)CCCC3)=O)C=C1 | C20H17ClN2O3
